US06339099B1
Preparation of ethyl 1-(3-cyano-4-fluorophenyl)-5-(2-furyl)pyrazole-3-carboxylate
To ethyl 4-(2-furyl)-2,4-dioxobutyrate (3.5 g, 16.7 mmol) in 50 mL of glacial acetic acid was added 4-fluoro-3-cyanophenylhydrazine tin chloride (6.3 g, 16.7 mmol). The reaction was stirred at 100° C. for 4 h. The reaction was allowed to cool to room temperature and the acetic acid was removed in vacuo. The residue was diluted with ethyl acetate and the organics were washed with saturated aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by recrystallization from hexane/ethyl acetate to afford 2.5 g (46%) of the title compound. LRMS (ES+): 326.1 (M+H)+.

reactant | ethyl 4-(2-furyl)-2,4-dioxobutyrate | 16.7 mmol, 3.5 g | O1C(=CC=C1)C(CC(C(=O)OCC)=O)=O | C10H10O5
reactant | 4-fluoro-3-cyanophenylhydrazine tin chloride | 16.7 mmol, 6.3 g | [Sn](Cl)(Cl)(Cl)Cl.FC1=C(C=C(C=C1)NN)C#N
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-cyano-4-fluorophenyl)-5-(2-furyl)pyrazole-3-carboxylate | 2.5 g, 46% | C(#N)C=1C=C(C=CC1F)N1N=C(C=C1C=1OC=CC1)C(=O)OCC | C17H12FN3O3
